US08314092B2
Add dimethyl sulfate (3 mL, 3.99 g, 31.63 mmoles) to a mixture of 3-hydroxy-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (3.5 g, 20.69 mmoles) and 2M sodium hydroxide (75 mL, 1500 mmoles) and stir the reaction mixture vigorously for 30 mins at room temp (water cooling bath applied). Collect the resultant precipitate and wash with water. Add more dimethyl sulfate (3 mL, 3.99 g, 31.63 mmoles) to the filtrate and stir for 30 minutes. Collect the resultant precipitate and wash with water. Add more dimethyl sulfate (3 mL, 3.99 g, 31.63 mmoles) to the filtrate and stir for 1 h. Combine the isolated precipitates and dry in a vacuum oven at 50° C. for 30 minutes to give ethyl 3-methoxy-4-methyl-1H-pyrrole-2-carboxylate (3.221 g, 84.98% yield). MS (m/z): 184.09 (M+1).

reactant | dimethyl sulfate | 31.63 mmoles, 3 mL, 3.99 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 3-hydroxy-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 20.69 mmoles, 3.5 g | C(C)OC(=O)C=1NC=C(C1O)C | C8H11NO3
reactant | sodium hydroxide | 1500 mmoles, 2M, 75 mL | [OH-].[Na+]
reactant | dimethyl sulfate | 31.63 mmoles, 3 mL, 3.99 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 31.63 mmoles, 3 mL, 3.99 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | ethyl 3-methoxy-4-methyl-1H-pyrrole-2-carboxylate | 3.221 g, 84.98% yield | COC1=C(NC=C1C)C(=O)OCC | C9H13NO3
